US05672597
N-[4-[3-(piperidinomethyl)phenoxy]-cis-2-butenyl]-2-[2-(3-furoylamino)ethylthio]acetamide
There was suspended 3.52 g (0.0154 mol) of 2-[(3-furoylamino)ethylthio]acetic acid in 80 ml of dichloromethane and added 2.36 g (0.0154 mol) of HOBt and 3.17 g (0.0154 mol) of DCC under cooling with ice, and the mixture was stirred for 30 minutes under cooling with ice. Thereto was added 4.0 g (0.0138 mol) of 4-[3-(piperidinomethyl)phenoxy]-cis-2-butenylamine, and the mixture was stirred for 12 hours at room temperature. The precipitate was filtrated off, and the filtrate was washed with 10% aqueous solution of sodium hydroxide and with water and dried over Glauber's salt. Then the solvent was removed under reduced pressure and the residue was purified by silica gel column chromatography (chloroform:methanol=10:1) to give 2.9 g of the titled compound as oily matter.

reactant | 2-[(3-furoylamino)ethylthio]acetic acid | 0.0154 mol, 3.52 g | O1C=C(C=C1)C(=O)NCCSCC(=O)O | C9H11NO4S
reactant | HOBt | 0.0154 mol, 2.36 g | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 0.0154 mol, 3.17 g | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 4-[3-(piperidinomethyl)phenoxy]-cis-2-butenylamine | 0.0138 mol, 4.0 g | N1(CCCCC1)CC=1C=C(OC\C=C/CN)C=CC1 | C16H24N2O
solvent | dichloromethane | 80 ml | ClCCl | CH2Cl2
product | N-[4-[3-(piperidinomethyl)phenoxy]-cis-2-butenyl]-2-[2-(3-furoylamino)ethylthio]acetamide | 2.9 g | N1(CCCCC1)CC=1C=C(OC\C=C/CNC(CSCCNC(=O)C2=COC=C2)=O)C=CC1 | C25H33N3O4S
